US04097669
A solution of 75.6 g (0.6 mole) of analytically pure sodium sulfite in 300 ml of water was pre-warmed to 60°-70° C in a beaker. 122.8 g (0.5 mole) of 3,5-dichlorobenzenesulfochloride, and a solution of 40 g (1 mole) of sodium hydroxide in 200 ml of water were synchronously added dropwise from two dropping funnels in such a way that the pH value (measured with an electrode in the reaction solution) was always between 7 and 9; during the addition the mixture was stirred magnetically. The saline solution of the 3,5-dichlorobenzenesulfinate (about 600 ml) was then diluted with 1.8 liters of dimethylformamide and after adding 116.5 g (0.5 mole) of 2-bromo-5-trifluoromethyl-1,3,4-thiadiazole the whole was stirred for 15 hours at 50° C. The sulfone was precipitated completely by adding ice water and was recrystallized from ethanol. 121 g (70% of theory) of 2-(3',5'-dichlorophenylsulfonyl)-5-trifluoromethyl-1,3,4-thiadiazole of melting point 123° C were obtained.

reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 1 mole, 40 g | [OH-].[Na+]
reactant | 3,5-dichlorobenzenesulfinate | about 600 ml | ClC=1C=C(C=C(C1)Cl)S(=O)[O-]
reactant | 2-bromo-5-trifluoromethyl-1,3,4-thiadiazole | 0.5 mole, 116.5 g | BrC=1SC(=NN1)C(F)(F)F | C3BrF3N2S
solvent | water | 300 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | dimethylformamide | 1.8 liters | CN(C=O)C | C3H7NO
product | 2-(3',5'-dichlorophenylsulfonyl)-5-trifluoromethyl-1,3,4-thiadiazole | 121 g, 70% | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)C=1SC(=NN1)C(F)(F)F | C9H3Cl2F3N2O2S2
